US07776857B2
A round bottom flask was charged with (E)-5-((5,6-dimethoxypyridin-3-ylimino)methyl)-2,2-dimethyl-1,3-dioxane-4,6-dione (450 mg, 1460 μmol) and 4.2 mL diphenyl ether. A reflux condenser was attached, and the solution was heated at 200° C. for 0.5 h. Upon cooling, hexane was added and the solids were filtered and washed with hexane. 6,7-dimethoxy-1,5-naphthyridin-4(1H)-one was isolated as a tan solid. MS [M+H]=207

reactant | (E)-5-((5,6-dimethoxypyridin-3-ylimino)methyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1460 μmol, 450 mg | COC=1C=C(C=NC1OC)\N=C\C1C(OC(OC1=O)(C)C)=O | C14H16N2O6
reactant | diphenyl ether | 4.2 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 6,7-dimethoxy-1,5-naphthyridin-4(1H)-one | COC=1N=C2C(C=CNC2=CC1OC)=O | C10H10N2O3
